US06762180B1
(4) 4-[(N-(dimethylcarbamoyl-methyl)-N-methyl-amino)-methyl]-nitrobenzene
Prepared from 4-[(N-carboxymethyl-N-methyl-amino)-methyl]-nitrobenzene and dimethylamine hydrochloride

reactant | 4-[(N-carboxymethyl-N-methyl-amino)-methyl]-nitrobenzene | C(=O)(O)CN(C)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H12N2O4
reactant | dimethylamine hydrochloride | Cl.CNC
product | 4-[(N-(dimethylcarbamoyl-methyl)-N-methyl-amino)-methyl]-nitrobenzene | CN(C(=O)CN(C)CC1=CC=C(C=C1)[N+](=O)[O-])C | C12H17N3O3
